US06946555B2
10.3:1*(2R,3S/2S,3R)-:(2R/3R/2S,3S)-3-(4-Chloro-5-fluoropyrimidin-6-yl)-2-(2,4-difluorophenyl)-1-(1H-1,2,4-triazol-1-yl)butan-2-ol
A solution of iodine (2.25 g) in tetrahydrofuran (6 ml) was added dropwise to a stirred slurry of zinc (Britannia Alloys) (3.00 g) and lead (0.15 g) in tetrahydrofuran (19 ml) under a nitrogen atmosphere at 25° C. The reaction temperature was allowed to rise during the addition. The mixture was then cooled to 2° C. A solution of 1-(2,4-difluorophenyl)-2-(1H-1,2,4-triazol-1-yl)ethanone (2.00 g), 6-(1-bromoethyl)-4-chloro-5-fluoropyrimidine (see Preparation 1) (2.84 g) and iodine (0.02 g) in tetrahydrofuran (16 ml) was added dropwise over 10 minutes. The reaction temperature was limited to a maximum of 16° C. during the addition by cooling. Further cooling was then applied to obtain a temperature below +5° C. The reaction was stirred below +5° C. for 30 minutes. A sample of the reaction mixture was taken and subjected to HPLC analysis according to the conditions set out in Example 1. The analysis showed a 10.3:1 molar ratio of the 2R,3S/2S,3R to the 2R,3R/2S,3S enantiomeric pair of the title compound. The yield of the 2R,3S/2S,3R enantiomeric pair was calculated to be 90% using an internal standard.

reactant | iodine | 2.25 g | II | I2
reactant | 1-(2,4-difluorophenyl)-2-(1H-1,2,4-triazol-1-yl)ethanone | 2.00 g | FC1=C(C=CC(=C1)F)C(CN1N=CN=C1)=O | C10H7F2N3O
reactant | 6-(1-bromoethyl)-4-chloro-5-fluoropyrimidine | 2.84 g | BrC(C)C1=C(C(=NC=N1)Cl)F | C6H5BrClFN2
reactant | iodine | 0.02 g | II | I2
solvent | tetrahydrofuran | 6 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 19 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 16 ml | O1CCCC1 | C4H8O
catalyst | zinc | 3.00 g | [Zn] | Zn
product | 3-(4-Chloro-5-fluoropyrimidin-6-yl)-2-(2,4-difluorophenyl)-1-(1H-1,2,4-triazol-1-yl)butan-2-ol | ClC1=NC=NC(=C1F)C(C(CN1N=CN=C1)(O)C1=C(C=C(C=C1)F)F)C | C16H13ClF3N5O
